US05716756
4.1 g (10 mmol) of 1,3-bis-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethylethyl)-benzene were dissolved in 20 ml of dry DMF, and 0.75 g (25 mmol) of sodium hydride (80% strength dispersion) was added. The clear solution formed was stirred for a further 30 minutes. 4.75 g (25 mmol) of toluene-4-sulfonyl chloride in 15 ml of DMF were added dropwise at 10° to 15° C. The mixture was stirred for 48 hours at room temperature and poured into water. The crystalline precipitate was filtered off, washed with water and dried. The residue was chromatographed over a silica gel column with methylene chloride. 3.5 g of 1,3-bis-[2,2,2-trifluoro-1-(toluene-4-sulfonyloxy)-1-trifluoromethylethyl]-benzene were obtained (colorless crystals, m.p.: 131° C.).

reactant | 1,3-bis-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethylethyl)-benzene | 10 mmol, 4.1 g | FC(C(C(F)(F)F)(O)C1=CC(=CC=C1)C(C(F)(F)F)(O)C(F)(F)F)(F)F | C12H6F12O2
reactant | sodium hydride | 25 mmol, 0.75 g | [H-].[Na+]
reactant | toluene-4-sulfonyl chloride | 25 mmol, 4.75 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 1,3-bis-[2,2,2-trifluoro-1-(toluene-4-sulfonyloxy)-1-trifluoromethylethyl]-benzene | 3.5 g | FC(C(C(F)(F)F)(OS(=O)(=O)C1=CC=C(C=C1)C)C1=CC(=CC=C1)C(C(F)(F)F)(OS(=O)(=O)C1=CC=C(C=C1)C)C(F)(F)F)(F)F | C26H18F12O6S2
